US04146630
The isomeric mixture of 1-benzyl-4-nitroindazole and 2-benzyl-4-nitroindazole obtained by the benzylation of 4-nitroindazole is reduced with hydrazine and Raney nickel in methanol and subsequently heated with excess sodium hydrogen sulphite in water. The 1-benzyl-4-aminoindazole (m.p. 73°-75° C.) thereby remains undissolved. Upon acidifying the solution, 2-benzyl-4-hydroxyindazole precipitates out and is obtained in the form of colorless crystals; m.p. 172°-174° C.

reactant | 1-benzyl-4-nitroindazole | C(C1=CC=CC=C1)N1N=CC2=C(C=CC=C12)[N+](=O)[O-] | C14H11N3O2
reactant | 2-benzyl-4-nitroindazole | C(C1=CC=CC=C1)N1N=C2C=CC=C(C2=C1)[N+](=O)[O-] | C14H11N3O2
product | 4-nitroindazole | [N+](=O)([O-])C1=C2C=NNC2=CC=C1 | C7H5N3O2
